** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadOut30mA.sch
.subckt sg13g2_IOPadOut30mA vss vdd sub iovss iovdd1 c2p pad iovdd
*.PININFO iovdd1:B vss:B vdd:B sub:B iovss:B iovdd:B pad:B c2p:B
R2 vss sub ptap1 A=24p P=160.6u
R1 iovss sub ptap1 A=4413.9448p P=953.3u
x2 iovdd sub pad pad sub sg13g2_DCPDiode_noptap
x1 pad iovss pad iovdd sub sg13g2_DCNDiode
x3 iovdd1 vss c2p net1 vdd sub net2 sg13g2_GateLevelUpInv_noptap
x4 pad pad pad pad pad pad pad pad iovss sub net2 sg13g2_Clamp_N15N15D
x5 net1 iovdd iovss pad pad pad pad pad pad pad pad sub sg13g2_Clamp_P15N15D_noptap
.ends

* expanding   symbol:  sg13g2_DCPDiode_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sch
.subckt sg13g2_DCPDiode_noptap cathode guard anode1 anode2 sub
*.PININFO anode2:B cathode:B guard:B anode1:B sub:B
D1 anode1 cathode dpantenna l=27.78u w=1.26u
D2 anode2 cathode dpantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_DCNDiode.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.PININFO cathode2:B guard:B anode:B cathode1:B sub:B
R1 anode sub ptap1 A=141.2964p P=221.76u
D1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
D2 sub cathode2 dantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_GateLevelUpInv_noptap.sym # of pins=7
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_GateLevelUpInv_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_GateLevelUpInv_noptap.sch
.subckt sg13g2_GateLevelUpInv_noptap iovdd vss core pgate vdd sub ngate
*.PININFO iovdd:B vss:B pgate:B core:B vdd:B sub:B ngate:B
x1 iovdd vss core pgate vdd sub sg13g2_LevelUpInv_noptap
x2 iovdd vss core ngate vdd sub sg13g2_LevelUpInv_noptap
.ends


* expanding   symbol:  sg13g2_Clamp_N15N15D.sym # of pins=4
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N15N15D.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N15N15D.sch
.subckt sg13g2_Clamp_N15N15D pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] iovss sub gate
*.PININFO iovss:B gate:B pad[7:0]:B sub:B
R1 iovss sub ptap1 A=55.7736p P=328.08u
D1 sub gate dantenna l=0.78u w=0.78u
M1 pad[0] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M2 pad[1] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M3 pad[2] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M4 pad[3] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M5 pad[4] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M6 pad[5] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M7 pad[6] gate iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M8 pad[7] gate iovss sub sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_Clamp_P15N15D_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P15N15D_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P15N15D_noptap.sch
.subckt sg13g2_Clamp_P15N15D_noptap gate iovdd iovss pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.PININFO iovss:B gate:B iovdd:B pad[7:0]:B sub:B
M1 pad[0] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
D1 gate iovdd dpantenna l=0.78u w=0.78u
M2 pad[1] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M3 pad[2] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M4 pad[3] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M5 pad[4] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M6 pad[5] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M7 pad[6] gate iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M8 pad[7] gate iovdd iovdd sg13_hv_pmos w=13.32u l=0.6u ng=2 m=1
.ends


* expanding   symbol:  sg13g2_LevelUpInv_noptap.sym # of pins=6
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelUpInv_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_LevelUpInv_noptap.sch
.subckt sg13g2_LevelUpInv_noptap iovdd vss in out vdd sub
*.PININFO iovdd:B vss:B out:B in:B vdd:B sub:B
M1 net1 in vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
M3 net1 net2 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
M4 net2 net1 iovdd iovdd sg13_hv_pmos w=0.3u l=0.45u ng=1 m=1
M5 out net2 iovdd iovdd sg13_hv_pmos w=3.9u l=0.45u ng=1 m=1
M2 net2 net3 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
M6 out net2 vss sub sg13_hv_nmos w=1.9u l=0.45u ng=1 m=1
M7 net3 in vss sub sg13_lv_nmos w=2.75u l=0.13u ng=1 m=1
M8 net3 in vdd vdd sg13_lv_pmos w=4.75u l=0.13u ng=1 m=1
.ends

